US05306728
To a suspension (20 ml) of 0.4 g of lithium aluminum hydride in terahydrofuran was added, under ice cooling, a tetrahydrofuran solution (10 ml) of 2.1 g of ethyl (E)-3-(3-thienyl)cinnamate [synthesized by the same reaction as in Referential Example 12 using ethyl (E)-3-bromocinnamate [see Org. Syn. I, 252] and tri-n-butyl(3-thienyl)tin ]. The mixture was stirred at room temperature for 30 minutes, and then refluxed for 30 minutes. The solution was worked up in a customary manner, and the product was purified by medium-pressure liquid chromatography [silica gel column, hexane/ethyl acetate=5/1→5/2] to give 1.1 g of 3-[3-(3-thienyl)phenyl]-1-propanol as a pale yellow oil.

reactant | lithium aluminum hydride | 20 ml, 0.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl (E)-3-(3-thienyl)cinnamate | 2.1 g | S1C=C(C=C1)C=1C=C(/C=C/C(=O)OCC)C=CC1 | C15H14O2S
reactant | ethyl (E)-3-bromocinnamate | BrC=1C=C(/C=C/C(=O)OCC)C=CC1 | C11H11BrO2
reactant | tri-n-butyl(3-thienyl)tin | C(CCC)[Sn](C1=CSC=C1)(CCCC)CCCC
solvent | terahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-[3-(3-thienyl)phenyl]-1-propanol | 1.1 g | S1C=C(C=C1)C=1C=C(C=CC1)CCCO | C13H14OS
